US04436915
6-bromo-8-methoxy-chroman (I b2)
According to the process of preparation I, from the amalgam of zinc prepared from 915 g (14 gram-atoms) of zinc, 91 g (3.8×10-1M) of mercurous chloride in 46 cm3 of concentrated hydrochloric acid and 1350 cm3 of water, after addition of 700 cm3 of water, 1100 cm3 of concentrated hydrochloric acid, 2500 cm3 of toluene and 450 g (1.8 M) of 6-bromo-8-methoxy-4-chromanon (III1), 200 g (yield=47%) of the expected product are obtained. M.p.=67° C.

reactant | toluene | 2500 cm3 | C1(=CC=CC=C1)C | C7H8
reactant | 6-bromo-8-methoxy-4-chromanon | 1.8 M, 450 g | BrC=1C=C2C(CCOC2=C(C1)OC)=O | C10H9BrO3
solvent | hydrochloric acid | 46 cm3 | Cl | ClH
solvent | water | 1350 cm3 | O | H2O
catalyst | zinc | [Zn] | Zn
catalyst | zinc | 915 g | [Zn] | Zn
solvent | hydrochloric acid | 1100 cm3 | Cl | ClH
solvent | water | 700 cm3 | O | H2O
product | 6-bromo-8-methoxy-chroman | 200 g, yield=47% | BrC=1C=C2CCCOC2=C(C1)OC | C10H11BrO2
